US08383838B2
8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid thiazol-2-ylamide
8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester (0.6 mmol) and 2-aminothiazol (0.6 mmol) were dissolved in 2.5 ml xylene. Reaction was performed by microwave irradiation for 30 minutes at 140° C. The solution obtained from this reaction was cooled to room temperature and extracted by 2 mol/l hydrochloric acid and ethyl acetate. The ethyl acetate extract was dried over sodiumsulfate and the solvent removed in vacuo. After evaporation of the solvent in vacuo 8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid thiazol-2-ylamide was obtained as a white powder in a yield of 7%. LC-MS: 1.9 min, 307.0 (MH+) 1H-NMR: (DMSO-d6, 500 MHz): d [ppm]: 12.102 (s, 1H), 7.731 (t, 1H, J=7.3 Hz), 7.464 (d, 1H, J=3.2 Hz), 7.234 (d, 1H, J=3.6 Hz), 7.056 (m, 2H, J=7.8 Hz), 4.654 (m, 1H, J=2.6 Hz), 4.340 (m, 1H, J=7.6 Hz), 4.013 (m, 1H, J=7.2 Hz), 2.502 (m, 2H, J=1.8 Hz)

reactant | 8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid methyl ester | 0.6 mmol | COC(=O)C1C(C2=C(OCC1)C=C(C=C2)F)=O | C12H11FO4
reactant | 2-aminothiazol | 0.6 mmol | NC=1SC=CN1 | C3H4N2S
solvent | xylene | 2.5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 8-Fluoro-5-oxo-2,3,4,5-tetrahydro-benzo[b]oxepine-4-carboxylic acid thiazol-2-ylamide | yield of 7% | S1C(=NC=C1)NC(=O)C1C(C2=C(OCC1)C=C(C=C2)F)=O | C14H11FN2O3S
